US06451814B1
4-(4-{2-[(2S)-2-Hydroxy-3-(3-hydroxy-phenoxy)-propylamino]-ethyl}-phenylamino)-piperidine-1-carboxylic Acid 4-fluoro-benzylamide
4-[4-(2-Amino-ethyl)-phenylamino]-piperidine-1-carboxylic acid 4-fluoro-benzylamide (0.66 g, 1.6 mmol) was reacted tert-butyl{3-[(2S)oxiranylmethoxy] phenoxy} diphenylsilane according to Procedure G to yield the title compound (0.284 g, 0.4 mmol).

reactant | 4-[4-(2-Amino-ethyl)-phenylamino]-piperidine-1-carboxylic acid 4-fluoro-benzylamide | 1.6 mmol, 0.66 g | FC1=CC=C(CNC(=O)N2CCC(CC2)NC2=CC=C(C=C2)CCN)C=C1 | C21H27FN4O
reactant | tert-butyl{3-[(2S)oxiranylmethoxy] phenoxy} diphenylsilane | C(C)(C)(C)[Si](C1=CC=CC=C1)(C1=CC=CC=C1)OC1=CC(=CC=C1)OC[C@H]1OC1 | C25H28O3Si
product | 4-(4-{2-[(2S)-2-Hydroxy-3-(3-hydroxy-phenoxy)-propylamino]-ethyl}-phenylamino)-piperidine-1-carboxylic Acid 4-fluoro-benzylamide | 0.4 mmol, 0.284 g | FC1=CC=C(CNC(=O)N2CCC(CC2)NC2=CC=C(C=C2)CCNC[C@@H](COC2=CC(=CC=C2)O)O)C=C1 | C30H37FN4O4
